US04349685
5-hydroxy-1,3-benzoxathiol-2-one (14.3 grams) was mixed with n-butyl isocyanate (8.85 grams) in 175 milliliters of methyl ethyl ketone in the presence of 1.3 milliliters of triethylamine. The reaction mixture was then heated at reflux temperature for 2.5 hours. The solvent was then removed from the reaction mixture by evaporation in vacuo. The off-white solid residue was recrystallized from toluene and the purified product, 5-(n-butylcarbamoyloxy)-1,3-benzoxathiol-2-one was obtained, as a white, fluffy, crystalline solid with a melting point of 99°-100° C. Elemental analysis calculated for C12H13NO4S (percent): carbon--53.92; hydrogen--4.90; nitrogen--5.24. Found: carbon--54.1; hydrogen--4.89; nitrogen--5.27.

reactant | 5-hydroxy-1,3-benzoxathiol-2-one | 14.3 grams | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | n-butyl isocyanate | 8.85 grams | C(CCC)N=C=O | C5H9NO
reactant | triethylamine | 1.3 milliliters | C(C)N(CC)CC | C6H15N
solvent | methyl ethyl ketone | 175 milliliters | C(C)C(=O)C | C4H8O
product | 5-(n-butylcarbamoyloxy)-1,3-benzoxathiol-2-one | C(CCC)NC(=O)OC=1C=CC2=C(SC(O2)=O)C1 | C12H13NO4S
